US06245746B1
(A) Nδ-Boc-Nα-Benzyl-Nα-Methylornithine 2-(4-Fluorophenyl)ethylamide
Nδ-Boc-Nα-benzyl-Nα-methylornithine and 2-(4-fluorophenyl)ethylamide were coupled, as per Procedure C, to afford titled compound as a glassy solid: 1H NMR (400 MHz, CDCl3) δ1.52 (s, 9H), 1.73 (m, 1H), 1.65 (m, 2H), 1.79 (m, 1H), 2.78 (t, J=7.9 Hz, 2H), 3.02 (m, 1H), 3.14 (m, 2H), 3.52 (m, 4H), 6.96 (m, 2H), 7.11 (m, 5H), and 7.28 (m, 2H).

reactant | Nδ-Boc-Nα-benzyl-Nα-methylornithine | C(=O)(OC(C)(C)C)NCCC[C@H](N(C)CC1=CC=CC=C1)C(=O)O | C18H28N2O4
reactant | 2-(4-fluorophenyl)ethylamide | FC1=CC=C(C=C1)CC[NH-]
product | Nδ-Boc-Nα-Benzyl-Nα-Methylornithine 2-(4-Fluorophenyl)ethylamide | FC1=CC=C(C=C1)CCNC([C@@H](N(C)CC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C)=O | C26H36FN3O3
